US04170465
A solution of 7.5 g of diketene in 30 ml of tetrahydrofuran was added to a mixture of 10 g of 3-methylcyclohexylamine and 60 ml of tetrahydrofuran and the mixture was stirred at 20° C. for 4 hours and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-2 methylene chloride-acetone mixture to obtain 12 g of N-(3-methylcyclohexyl)-acetylacetamide. 12 g of the latter product and 0.3 g of p-toluene sulfonic acid were added to a mixture of 10.6 g of methyl orthoformate and 20 ml of methanol and the mixture was stirred at 20° C. for 1 hour and stood still for 16 hours at 20° C. 0.6 g of quinoline were added thereto and the mixture was evaporated to dryness under reduced pressure. The residue was added to 50 ml of toluene and the mixture was heated at 145° C. for 3 hours while distilling a toluene-methanol azeotrope and was then evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and elution with an 8-2 methylene chloride-acetone mixture gave 9.2 g of N-(3'-methylcyclohexyl)-3-methoxy-crotonamide whose RMN spectra showed it to be the E isomer.

reactant | diketene | 7.5 g | C=C1CC(=O)O1 | C4H4O2
reactant | 3-methylcyclohexylamine | 10 g | CC1CC(CCC1)N | C7H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-(3-methylcyclohexyl)-acetylacetamide | 12 g | CC1CC(CCC1)NC(CC(C)=O)=O | C11H19NO2
